US05705516
A solution of potassium hydroxide (0.7 g) in water (2 cm3) was added to a stirred solution of (4-methoxyphenyl)acetic acid hydrazide (1.99 g) in ethanol (30 cm3). carbon disulfide (0.7 cm3) was added and the reaction was heated to reflux for 6 hours and then left to cool. The reaction mixture was evaporated to dryness under reduced pressure and the solid residue dissolved in water. The pH was adjusted to 1 with concentrated hydrochloric acid, resulting in formation of a white precipitate. The precipitate was isolated by filtration, washed with water and ether and air dried to give 5-(4-methoxybenzyl)-1,3,4-oxadiazole-2(3H)-thione (1.96 g). M+ =222; 1H NMR: δ 3.80(3H,s); 3.95(2H,s); 6.90(2H,d); 7.20(2H,d); (solid).

reactant | potassium hydroxide | 0.7 g | [OH-].[K+]
reactant | (4-methoxyphenyl)acetic acid hydrazide | 1.99 g | COC1=CC=C(C=C1)CC(=O)NN | C9H12N2O2
reactant | carbon disulfide | 0.7 cm3 | C(=S)=S | CS2
solvent | water | 2 cm3 | O | H2O
solvent | ethanol | 30 cm3 | C(C)O | C2H6O
product | 5-(4-methoxybenzyl)-1,3,4-oxadiazole-2(3H)-thione | 1.96 g | COC1=CC=C(CC2=NNC(O2)=S)C=C1 | C10H10N2O2S
